US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-N′-ethylethane-1,2-diamine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and N-ethylethane-1,2-diamine. MS obsd. (ESI+) [(M+H)+] 425, 1H NMR (400 MHz, CD3OD) δ ppm 8.05 (d, J=7.2 Hz, 1 H), 7.99-7.97 (m, 2 H), 7.81 (d, J=8.4 Hz, 1 H), 7.67 (t, J=7.2 Hz, 1 H), 7.51-7.46 (m, 2 H), 6.08 (s, 1 H), 5.37 (s, 2 H), 4.57 (s, 2 H), 3.91 (t, J=6.4 Hz, 2 H), 3.69 (t, J=4.8 Hz, 2 H), 3.37 (t, J=6.4 Hz, 2 H), 3.15 (q, J=7.2 Hz, 2 H), 2.43 (s, 3 H), 1.35 (t, J=7.2 Hz, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | N-ethylethane-1,2-diamine | C(C)NCCN | C4H12N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-N′-ethylethane-1,2-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCNCC)C)=O | C23H28N4O2S
